US06355669B1
(B) Methyl 4-[4-(5,8-dimethylnaphthalene-2-yl)-4-oxo-butanoyl]benzoate
A mixture of 1.0 g of 5,8-dimethyl-2-naphthaldehyde, 1.2 g of methyl 4-acryloyl-benzoate, 0.28 g of 3-benzyl-5-(2-hydroxymethyl)-4-methylthiazolium chloride, 0.88 ml triethylamine and 20 ml N,N-dimethylformamide was heated under stirring at 70° C. for 3 hours. After the reaction solution was left standing for cooling to room temperature, water was added thereto, and the reaction solution was extracted with ethyl acetate (20 ml×3). The organic layers were combined, washed with brine, dried over anhydrous magnesium sulfate and filtered. Then, the filtrate was concentrated and the resulting crude crystals were washed with a mixed solvent of n-hexane and ethyl acetate to give 0.82 g of the title compound as colorless crystals.

reactant | 5,8-dimethyl-2-naphthaldehyde | 1.0 g | CC1=C2C=CC(=CC2=C(C=C1)C)C=O | C13H12O
reactant | methyl 4-acryloyl-benzoate | 1.2 g | C(C=C)(=O)C1=CC=C(C(=O)OC)C=C1 | C11H10O3
reactant | triethylamine | 0.88 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-[4-(5,8-dimethylnaphthalene-2-yl)-4-oxo-butanoyl]benzoate | 0.82 g | CC1=C2C=CC(=CC2=C(C=C1)C)C(CCC(=O)C1=CC=C(C(=O)OC)C=C1)=O | C24H22O4
